US07417056B2
4-(3-Allyl-5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester (4.9 g, 12.95 mmol) in acetone (214 ml) and water (32 ml) are mixed with N-methylmorpholine oxide-hydrate (1.75 g, 12.95 mmol) and 0.4 ml of osmium tetroxide solution (2.5% by weight in tert-butanol) while being cooled with ice. After 30 minutes at 2° C. and 16 hours at room temperature, the batch is mixed with another 0.3 ml of osmium tetroxide solution and stirred for 3 days at room temperature. For working-up, acetone is distilled off in a rotary evaporator, the residue is taken up in ethyl acetate (200 ml) and water (150 ml), and the phases are separated. The aqueous phase is extracted twice more with ethyl acetate, the combined ethyl acetate extracts are washed with saturated NaCl solution, dried (Na2SO4) and concentrated by evaporation. Column chromatography on silica gel with hexane-ethyl acetate yields 5.27 g of 4-(3-(2,3-dihydroxypropyl)-5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester. The latter (5.2 g, 12.6 mmol) is stirred with sodium periodate (5.39, 25.2 mmol) in THF (75 ml) and water (12.5 ml) for 24 hours under nitrogen. The batch is concentrated by evaporation, and the aqueous residue is extracted three times with ethyl acetate. The combined organic phases are washed with saturated NaCl solution, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with hexane-ethyl acetate yields 4.3 g of 4-(5-fluoro-2-hydroxy-2,3-dihydrobenzofuran-7-yl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester. 4.1 g (10.78 mmol) thereof in methanol (150 ml) is dissolved, the solution is mixed in portions with sodium borohydride (586 mg, 15 mmol), and it is stirred for 30 minutes at room temperature. A pH of 7.5 is set with acetic acid, and the reaction mixture is concentrated by evaporation. The residue is taken up in ethyl acetate (200 ml) and saturated NaHCO3 solution (75 ml), the phases are separated, the organic phase is washed with saturated NaCl solution, dried (Na2SO4) and concentrated by evaporation in a vacuum, whereby 4.01 g of product accumulates.

reactant | 4-(3-Allyl-5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester | 12.95 mmol, 4.9 g | C(C)OC(C(CC(C)(C)C1=C(C(=CC(=C1)F)CC=C)O)(C(F)(F)F)O)=O | C18H22F4O4
reactant | N-methylmorpholine oxide-hydrate | 12.95 mmol, 1.75 g | O.C[N+]1(CCOCC1)[O-]
reactant | acetone | 214 ml | CC(=O)C | C3H6O
solvent | water | 32 ml | O | H2O
catalyst | osmium tetroxide | 0.4 ml | [Os](=O)(=O)(=O)=O
catalyst | osmium tetroxide | 0.3 ml | [Os](=O)(=O)(=O)=O
product | 4-(3-(2,3-dihydroxypropyl)-5-fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethyl-valeric acid ethyl ester | 5.27 g | C(C)OC(C(CC(C)(C)C1=C(C(=CC(=C1)F)CC(CO)O)O)(C(F)(F)F)O)=O | C18H24F4O6
